US07759379B2
3-[3,3-Dimethyl-1-(2-morpholin-4-yl-acetyl)-2,3-dihydro-1H-indol-6-yl]-5,5-dimethyl-1-quinolin-4-ylmethyl-imidazolidine-2,4-dione
To a solution of 50 mg 3-(3,3-dimethyl-2,3-dihydro-1H-indol-6-yl)-5,5-dimethyl-1-quinolin-4-ylmethyl-imidazolidine-2,4-dione in 1 ml 1,2-dichloroethane 0.04 ml ethyl-diisopropylamine and 13.67 mg chloroacetylchloride were added at 0° C. After stirring for 1 hour at 0° C. 10.5 mg morpholine were added and the reaction mixture was stirred for 1 hour at room temperature. Then 10.5 mg morpholine were added and the mixture was stirred for further 16 hours at room temperature. After removing of the solvent under reduced pressure the residue was purified by preparative HPLC (C18 reverse phase column, elution with a water/acetonitrile gradient with 0.1% trifluoroacetic acid). Lyophilization of the solution yielded a white solid.

reactant | 3-(3,3-dimethyl-2,3-dihydro-1H-indol-6-yl)-5,5-dimethyl-1-quinolin-4-ylmethyl-imidazolidine-2,4-dione | 50 mg | CC1(CNC2=CC(=CC=C12)N1C(N(C(C1=O)(C)C)CC1=CC=NC2=CC=CC=C12)=O)C | C25H26N4O2
reactant | chloroacetylchloride | 13.67 mg | ClCC(=O)Cl | C2H2Cl2O
reactant | morpholine | 10.5 mg | N1CCOCC1 | C4H9NO
reactant | morpholine | 10.5 mg | N1CCOCC1 | C4H9NO
solvent | 1,2-dichloroethane | 1 ml | ClCCCl | C2H4Cl2
product | 3-[3,3-Dimethyl-1-(2-morpholin-4-yl-acetyl)-2,3-dihydro-1H-indol-6-yl]-5,5-dimethyl-1-quinolin-4-ylmethyl-imidazolidine-2,4-dione | CC1(CN(C2=CC(=CC=C12)N1C(N(C(C1=O)(C)C)CC1=CC=NC2=CC=CC=C12)=O)C(CN1CCOCC1)=O)C | C31H35N5O4
